US06123979
2. Preparation of Behenyl Linoleate/Oleate
Following the method for stearyl oleate according to example 1, behenyl alcohol (524 g) was reacted with fatty acids produced by hydrolysis of sunflower oil (476 g).

reactant | stearyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCCCCCCCCCCCCCCCCC | C36H70O2
reactant | behenyl alcohol | 524 g | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
product | Behenyl Linoleate Oleate | 476 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)OCCCCCCCCCCCCCCCCCCCCCC.C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-] | InChI=1S/C40H76O2.C18H34O2/c1-3-5-7-9-11-13-15-17-19-20-21-22-23-25-27-29-31-33-35-37-39-42-40(41)38-36-34-32-30-28-26-24-18-16-14-12-10-8-6-4-2;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20/h12,14,18,24H,3-11,13,15-17,19-23,25-39H2,1-2H3;9-10H,2-8,11-17H2,1H3,(H,19,20)/p-1/b14-12-,24-18-;10-9-
